US04470976
3-Trifluoromethylphenyl 4-O-(α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside
A 3.5 g portion of 3-trifluoromethylphenyl 2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside was reacted as described in Example 8. Rather than refrigerating overnight, this mixture was allowed to stand at room temperature for 20 hours, giving 2.5 g of the desired intermediate as a white solid, [α]D26 =+25°±2° (0.496%, methanol).

reactant | 3-trifluoromethylphenyl 2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside | C(C)(=O)O[C@H]1[C@H](SC2=CC(=CC=C2)C(F)(F)F)O[C@@H]([C@H]([C@@H]1OC(C)=O)O[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)COC(C)=O | C33H39F3O17S
solvent | methanol | CO | CH4O
product | 3-Trifluoromethylphenyl 4-O-(α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside | 2.5 g | [C@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@H]1[C@@H]([C@H]([C@H](SC2=CC(=CC=C2)C(F)(F)F)O[C@@H]1CO)O)O | C19H25F3O10S
